US05874194
Preparation of N-[4-(2-bromoethyl)benzoyl]-4-methoxybenzenesulfonamide
A mixture of 18.72 g (0.10 mol) of 4-methoxybenzenesulfonamide, 24.75 g (0.10 mol) of 4-(2-bromoethyl)benzoyl chloride and 200 ml of toluene was stirred and heated to reflux at which time solution was achieved. The solution was heated at reflux for 16.5 hrs. The vapors emitted from the condenser were acidic during reaction. After this time, the solution was cooled and concentrated to an oil. The oil was dissolved in 3:7 heptane:toluene and cooled. Solid crystallized and was collected, washed with ligroine and dried.

reactant | 4-methoxybenzenesulfonamide | 0.10 mol, 18.72 g | COC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
reactant | 4-(2-bromoethyl)benzoyl chloride | 0.10 mol, 24.75 g | BrCCC1=CC=C(C(=O)Cl)C=C1 | C9H8BrClO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(2-bromoethyl)benzoyl]-4-methoxybenzenesulfonamide | BrCCC1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)OC)C=C1 | C16H16BrNO4S
